US08247403B2
(2) tert-butyl 9-(pyrrolidin-1-ylcarbonyl)-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate
To a solution of 4-(tert-butoxycarbonyl)-2,3,4,5-tetrahydro-1,4-benzoxazepine-9-carboxylic acid (40.0 mg, 0.136 mmol), 1-hydroxybenzotriazole (18.4 mg, 0.136 mmol) and pyrrolidine (0.017 ml, 0.204 mmol) in DMF (1 ml) was added 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (52.2 mg, 0.272 mmol), and the mixture was stirred at room temperature for 12 hr. The reaction mixture was poured into water, and the mixture was extracted with ethyl acetate. The extract was washed with water and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure to give the desired product (42.0 mg, 89.2%) as an oil.

reactant | 4-(tert-butoxycarbonyl)-2,3,4,5-tetrahydro-1,4-benzoxazepine-9-carboxylic acid | 0.136 mmol, 40.0 mg | C(C)(C)(C)OC(=O)N1CCOC2=C(C1)C=CC=C2C(=O)O | C15H19NO5
reactant | 1-hydroxybenzotriazole | 0.136 mmol, 18.4 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | pyrrolidine | 0.204 mmol, 0.017 ml | N1CCCC1 | C4H9N
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.272 mmol, 52.2 mg | Cl.CN(CCCN=C=NCC)C
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | tert-butyl 9-(pyrrolidin-1-ylcarbonyl)-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate | 42.0 mg, 89.2% | N1(CCCC1)C(=O)C1=CC=CC=2CN(CCOC21)C(=O)OC(C)(C)C | C19H26N2O4
